US04006145
10 g of 10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-ol, 100 ml of absolute benzene and 10 g of finely powdered calcium chloride are saturated at room temperature with dry hydrogen chloride gas (ca 2 hours) and then stirred for a further 20 hours. The calcium chloride is subsequently filtered off under a vacuum and washed with chloroform and the filtrate concentrated under reduced pressure. There is obtained 10-chloro-10,11-dihydro-methyl-dibenzo[b,f]thiepine as a yellow oil which crystallises on standing. 19.7 g of 10-chloro-10,11-dihydro-2-methyl-dibenzo-[b,f]thiepine dissolved in 100 ml of chloroform are heated under reflux for 24 hours together with 36.5 g of 1-carbethoxy-piperazine. Then the mixture is concentrated under reduced pressure and the residue crystallised from acetone/hexane. There is obtained 1-carbethoxy-4-(10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-piperazine of melting point 96°-98° C.

reactant | 10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-ol | 10 g | CC1=CC2=C(SC3=C(C(C2)O)C=CC=C3)C=C1 | C15H14OS
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | hydrogen chloride | Cl | ClH
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 10-chloro-10,11-dihydro-methyl-dibenzo[b,f]thiepine | ClC1CC2=C(SC3=C1C=CC=C3)C=CC=C2C | C15H13ClS
